US07176224B2
D. 2-Methyl-3-(4-{2-[5-methyl-2-(3-thiophen-3-ylphenyl)oxazol-4-yl]ethoxy}phenyl)-2-phenoxypropionic acid
2-Methyl-3-(4-{2-[5-methyl-2-(3-thiophen-3-ylphenyl)oxazol-4-yl]ethoxy}phenyl)-2-phenoxypropionic acid ethyl ester (3.6 mmol) in MeOH (7 mL) was treated with 2N NaOH (7 mL) and warmed to 55° C. After 18 h, the mixture was concentrated under reduced pressure and then acidified with 5N HCl to pH=1. The solution was extracted with EtOAc and then the organic phases dried (Na2SO4), filtered and concentrated to a white solid. 1H NMR (400 MHz, DMSO-d6) δ8.15 (t, J=1.6 Hz, 1H), 7.98 (dd, J=2.8 Hz, J=1.6 Hz, 1H), 7.82–7.79 (m, 2H), 7.66 (dd, J=7.6 Hz, J=2.8 Hz, 1H), 7.59 (dd, J=6.4 Hz, J=1.2 Hz, 1H), 7.52 (t, J=7.6 Hz, 1H), 7.24 (t, J=8.0 Hz, 2H), 7.13 (d, J=8.4 Hz, 2H), 6.93 (t, J=7.6 Hz, 1H), 6.85 (d, J=8.4 Hz, 1H), 6.79 (dd, J=7.6 Hz, J=1.2 Hz, 2H), 4.19 (t, J=6.4 Hz, 2H), 3.16 (d, J=13.2 Hz, 1H), 3.04 (d, J=13.2 Hz, 1H), 2.92 (t, J=6.4 Hz, 2H), 2.36 (s, 3H), 1.26 (s, 3H); MS (EI) 540.2 (M+H)+, 538.3 (M−M)−.

reactant | 2-Methyl-3-(4-{2-[5-methyl-2-(3-thiophen-3-ylphenyl)oxazol-4-yl]ethoxy}phenyl)-2-phenoxypropionic acid ethyl ester | 3.6 mmol | C(C)OC(C(CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC(=CC=C1)C1=CSC=C1)(OC1=CC=CC=C1)C)=O | C34H33NO5S
reactant | NaOH | 2N, 7 mL | [OH-].[Na+]
solvent | MeOH | 7 mL | CO | CH4O
product | 2-Methyl-3-(4-{2-[5-methyl-2-(3-thiophen-3-ylphenyl)oxazol-4-yl]ethoxy}phenyl)-2-phenoxypropionic acid | CC(C(=O)O)(CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC(=CC=C1)C1=CSC=C1)OC1=CC=CC=C1 | C32H29NO5S
